US04410732
17.5 g. of crude Compound No. 10 obtained by Example 3 was added to a mixture comprising 0.9 ml. of piperidine, 0.9 ml. of acetic acid, 25 ml. of 37% formaline and 180 ml. of methyl alcohol, and the mixture was refluxed and reacted for 3 hours. The reaction mixture was concentrated under reduced pressure, and then 150 ml. of water and 200 ml. of chloroform were added thereto for liquid phase separation, whereupon an organic phase was obtained. The organic phase was dried over anhydrous sodium sulfate and chloroform was distilled off to obtain 18.0 g. of 4'-difluoromethoxy-2-phenylacrylophenone (ND20 :1.5819). Then, 17.5 g. of this product and 8 ml. of hydrazine hydrate were refluxed in ethyl alcohol for reaction for 3 hours. After the reaction, the reaction mixture was concentrated under reduced pressure, and 80 ml. of water and 100 ml. of chloroform were added, whereupon an organic phase was obtained. After drying the organic phase over anhydrous sodium sulfate, chloroform was distilled off, whereupon 17.5 g. of 3-(4-difluoromethoxyphenyl)-4-phenyl-2-pyrazoline (melting point: 65°-75° C.) was obtained. Then, 5.8 g. of the compound thus obtained and 3.1 g. of 4-chlorophenylisocyanate were added to dried ethyl ether and reacted for 6 hours under reflux. After cooling the reaction mixture, precipitated crystals were collected by filtration, whereby 5.3 g. of the product was obtained. This product was confirmed by the NMR spectrum to be 1-(4-chlorophenyl-carbamoyl)-3-(4-difluoromethoxyphenyl)-4-phenyl-2-pyrazoline. (Melting point: 147.0°-148.0° C.).

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | formaline | C=O | CH2O
reactant | 4'-difluoromethoxy-2-phenylacrylophenone | FC(OC1=CC=C(C=C1)C(C(=C)C1=CC=CC=C1)=O)F | C16H12F2O2
reactant | hydrazine hydrate | O.NN
solvent | ethyl alcohol | C(C)O | C2H6O
solvent | methyl alcohol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-difluoromethoxyphenyl)-4-phenyl-2-pyrazoline | FC(OC1=CC=C(C=C1)C1=NNCC1C1=CC=CC=C1)F | C16H14F2N2O
